US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-[methyl(pyridin-2-ylmethyl)amino]quinoxaline-6-carboxylate (120 mg, 0.30 mmol) in methanol (30 mL) was added sodium hydroxide (48 mg, 1.20 mmol), and the reaction mixture was stirred overnight at room temperature. The resulting mixture was concentrated in vacuo, diluted with water (20 mL), and adjusted to pH 6 with HCl (2N). The solids were collected by filtration to give 2-(4-fluorophenyl)-3-[methyl(pyridin-2-ylmethyl)amino]quinoxaline-6-carboxylic acid as a yellow solid (66 mg, 57%).

reactant | methyl 2-(4-fluorophenyl)-3-[methyl(pyridin-2-ylmethyl)amino]quinoxaline-6-carboxylate | 0.30 mmol, 120 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(CC1=NC=CC=C1)C)C(=O)OC | C23H19FN4O2
reactant | sodium hydroxide | 1.20 mmol, 48 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 2-(4-fluorophenyl)-3-[methyl(pyridin-2-ylmethyl)amino]quinoxaline-6-carboxylic acid | 66 mg, 57% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(CC1=NC=CC=C1)C)C(=O)O | C22H17FN4O2
